US09303033B2
Synthesis of 3-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)benzoic acid
Tert-butyl 3-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)benzoate (97 mg, 0.2 mmol) was dissolved in 2 mL of TFA/DCM (1:1) and stirred at room temperature for 1 hour. Excess solvent and TFA were removed by evaporation under a stream of nitrogen. The residue was diluted with water then the mixture was filtered. The product, 3-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)benzoic acid, was collected as a solid in 85% yield. LCMS (M+1=490)

reactant | Tert-butyl 3-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)benzoate | 0.2 mmol, 97 mg | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC=1C=C(C(=O)OC(C)(C)C)C=CC1)N=CC2C=C2NC(NC2=O)=O | C27H24ClN7O4
solvent | TFA DCM | 2 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)benzoic acid | 85% yield | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC=1C=C(C(=O)O)C=CC1)N=CC2C=C2NC(NC2=O)=O | C23H16ClN7O4
